US07259183B2
Preparation of 1H-Indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-fluoro-phenoxy)-ethyl]-amide 90
To a solution of 175 mg (0.5 mmol) of 1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-(2-hydroxy-ethyl)-amide, 62 mg (0.55 mmol) of 4-fluorophenol and 144 mg (0.55 mmol) of triphenyl phosphine in 5 ml THF were added dropwise 88 μl (0.55 mmol) of azodicarboxylic acid diethyl ester at 0° C. The reaction mixture was stirred at rt over night. The solvent was evaporated and the residue was dissolved in diethyl ether. The organic layer was washed twice with 2N aqueous NaOH solution, once with saturated aqueous NaCl solution, dried over sodium sulfate, filtered and the solvent was evaporated. The residue was purified by column chromatography (silica gel; diethyl ether/heptane 1:1) to yield 100 mg (45%) product as a white solid. MS (ISP) 445.4 (M+H)+.

reactant | 1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-(2-hydroxy-ethyl)-amide | 0.5 mmol, 175 mg | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=CC=C3C=CNC23)CCO)C=C1 | C22H26N2O2
reactant | 4-fluorophenol | 0.55 mmol, 62 mg | FC1=CC=C(C=C1)O | C6H5FO
reactant | triphenyl phosphine | 0.55 mmol, 144 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylic acid diethyl ester | 0.55 mmol, 88 μl | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1H-Indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-fluoro-phenoxy)-ethyl]-amide | 100 mg, 45% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=CC=C3C=CNC23)CCOC2=CC=C(C=C2)F)C=C1 | C28H29FN2O2
